US08309733B2
3-(2-Chloro-5-pyridinylmethyl)-2-(phenylacetylamino)-thiazolidine (“Table 2”, Compound No. 10)
To a solution of 3-(2-Chloro-5-pyridinylmethyl)-2-iminothiazolidine (132 mg, 0.5 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (96 mg, 0.5 mmol) and 4-dimethylaminopyridine (65 mg, 0.54 mmol) in 3 ml of dichloromethane, phenylacetic acid (68 mg, 0.5 mmol) was added in portions, and stirred at room temperature overnight. After distilling the solvent off, the resultant crude crystal was washed with 1% hydrochloric acid, recrystallized from ethyl acetate thereby obtaining the intended substance. Yield: 100 mg (58%). Melting point: 157-158° C.

reactant | 3-(2-Chloro-5-pyridinylmethyl)-2-iminothiazolidine | 0.5 mmol, 132 mg | ClC1=NC=C(C=C1)CN1C(SCC1)=N | C9H10ClN3S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.5 mmol, 96 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | phenylacetic acid | 0.5 mmol, 68 mg | C1(=CC=CC=C1)CC(=O)O | C8H8O2
catalyst | 4-dimethylaminopyridine | 0.54 mmol, 65 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 3-(2-Chloro-5-pyridinylmethyl)-2-(phenylacetylamino)-thiazolidine | ClC1=NC=C(C=C1)CN1C(SCC1)NC(CC1=CC=CC=C1)=O | C17H18ClN3OS
